US04556660
A mixture of 2.7 parts of 5-[(4-chlorophenyl)methyl]-2-(methylthio)-4(1H)-pyrimidinone and 3.67 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine was stirred and heated for 4 hours at 140° C. The reaction mixture was cooled and taken up in trichloromethane. The solution was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume), saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was suspended in 1,1'-oxybisethane, yielding 4.5 parts (76.8%) of 5-[(4-chlorophenyl)methyl]-2-[[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]amino]-4(1H)-pyrimidinone monohydrate; mp. 150.6°-158.7° C. (compound 85).

reactant | 5-[(4-chlorophenyl)methyl]-2-(methylthio)-4(1H)-pyrimidinone | ClC1=CC=C(C=C1)CC=1C(N=C(NC1)SC)=O | C12H11ClN2OS
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-[(4-chlorophenyl)methyl]-2-[[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]amino]-4(1H)-pyrimidinone monohydrate | 76.8% | O.ClC1=CC=C(C=C1)CC=1C(N=C(NC1)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | InChI=1S/C32H33ClFN7O.H2O/c33-25-9-5-22(6-10-25)19-24-20-36-31(39-30(24)42)35-15-18-40-16-13-27(14-17-40)37-32-38-28-3-1-2-4-29(28)41(32)21-23-7-11-26(34)12-8-23;/h1-12,20,27H,13-19,21H2,(H,37,38)(H2,35,36,39,42);1H2
